US05705662
(E)-3β,14β-Dihydroxy-21-methyl-5β-pregn-20-ene-21-carboxaldehyde (II-a)
To a solution of 8.40 g of (E)-21-hydroxymethyl-21-methyl-5β-pregn-20-ene-3β,14β-diol in 200 ml of chloroform, 84.0 g of MnO2 were added at room temperature. The mixture was stirred overnight and then filtered through Celite. The organic solution was evaporated to dryness to give 7.50 g of the title compound (II-a) as an off-white solid.

reactant | (E)-21-hydroxymethyl-21-methyl-5β-pregn-20-ene-3β,14β-diol | 8.40 g | OC\C(=C\[C@H]1CC[C@@]2([C@@H]3CC[C@@H]4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)O)\C | C23H38O3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 84.0 g | O=[Mn]=O
product | (E)-3β,14β-Dihydroxy-21-methyl-5β-pregn-20-ene-21-carboxaldehyde | 7.50 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](/C=C(/C=O)\C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C23H36O3
